US08222243B2
1-[5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carbonyl]-piperidine-3-carboxylic acid amide
Prepared from 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 3-piperidinecarboxamide by the method described in Example 2 Method B reversing the order of addition such that solid acid chloride was added to a THF solution of triethylamine and piperdine derivative. The reaction mixture was evaporated to a solid, triturated and filtered with the aid of water, then washed with a 1 N aqueous hydrochloric acid solution followed by water. The solid was air dried to afford product as a colorless solid (120 mg, 97%). 1H NMR (DMSO-d6) 1.36-1.49 (m, 1 H), 1.55-1.75 (m, 2 H), 1.89-1.93 (m, 1 H), 2.35 (d, J=1.8, 3 H), 3.03 (br s, 2 H), 4.10 (br s, 2 H), 6.90 (s, 1 H), 7.37 (s, 1 H), 7.51 (d, J=4.0, 1 H), 7.67 (d, J=4.0, 1 H).19F NMR −62.2. LC/MS 5.54 min, [M+1]+ 388.

reactant | 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | FC(C1=C(C(=NO1)C1=CC=C(S1)C(=O)O)C)(F)F | C10H6F3NO3S
reactant | 3-piperidinecarboxamide | N1CC(CCC1)C(=O)N | C6H12N2O
reactant | THF | C1CCOC1 | C4H8O
reactant | piperdine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carbonyl]-piperidine-3-carboxylic acid amide | 120 mg, 97% | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)N1CC(CCC1)C(=O)N | C16H16F3N3O3S
